US04065440
The diisopropylidene methylene dimalonate used in this Example was prepared by adding 1.5 ml concentrated sulfuric acid over a 20 minute period to a stirred slurry of 52 grams malonic acid (0.5 mol) and 60 ml acetic anhydride (0.6 mol) in an erlenmeyer flask reactor. After the reactants were stirred for 3 hours at room temperature, 40 ml acetone (0.55 mols) were added with cooling and the reactants were maintained at 5° C for 16 hours. The crystalline product was filtered, washed with ice water and dried yielding 32 grams isopropylidene malonate having a melting point of 97°-98° C. A solution of 14.4 grams of isopropylidene malonate (0.1 mol), 4.0 grams of 37% aqueous formaldehyde (0.05 mol) and 40 ml dimethyl formamide was maintained at room temperature for 3 hours in an erlenmeyer flask. After the addition of 25 ml water, white crystals precipitated from the dimethyl formamide. The crystals were washed with water and dried yielding 10 grams of diisopropylidene methylene dimalonate which melted at from 152°-153° C.

reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | malonic acid | 0.5 mol, 52 grams | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 0.6 mol, 60 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetone | 0.55 mols, 40 ml | CC(=O)C | C3H6O
product | isopropylidene malonate | 32 grams | C1(CC(=O)OC(C)(C)O1)=O | C6H8O4
